US06051586
EXAMPLE 38 (2-Hydroxy-2-pyridin-3-yl-ethyl)-[6-(4-isopropyl-phenylsulfamoyl)-(2R)-chroman-2-ylmethyl]-carbamic acid tert-butyl ester
Di-tert-butyl dicarbonate (210 mL, 0.91 mmol) was added to a solution of 2-[((2R)-2-hydroxy-2-pyridin-3-yl-ethylamino)-methyl]-chroman-6-sulfonic acid (4-isopropyl-phenyl)-amide (400 mg, 1.11 mmol, obtained as a crude solid from the intermediate in Example 27 according to the procedure in Example 29) in tetrahydrofuran (15 mL). After one hour the mixture was concentrated in vacuo. Silica gel chromatography (gradient elution with 50:50 hexane/ethyl acetate to 48:48:5 hexane/ethyl acetate/methanol) afforded a yellow oil (221 mg, 43%). Rf =0.4 (B).

reactant | Di-tert-butyl dicarbonate | 0.91 mmol, 210 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-[((2R)-2-hydroxy-2-pyridin-3-yl-ethylamino)-methyl]-chroman-6-sulfonic acid (4-isopropyl-phenyl)-amide | C(C)(C)C1=CC=C(C=C1)NS(=O)(=O)C=1C=C2CCC(OC2=CC1)CNC[C@@H](C=1C=NC=CC1)O | C26H31N3O4S
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (2-Hydroxy-2-pyridin-3-yl-ethyl)-[6-(4-isopropyl-phenylsulfamoyl)-(2R)-chroman-2-ylmethyl]-carbamic acid tert-butyl ester | 221 mg, 43% | C(C)(C)(C)OC(N(C[C@@H]1OC2=CC=C(C=C2CC1)S(NC1=CC=C(C=C1)C(C)C)(=O)=O)CC(C=1C=NC=CC1)O)=O | C31H39N3O6S
